Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11],0.36544818924
[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9][H:10],0.146337934581
[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])=[C:5]([H:6])[O:7][H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12],4.54117616742
[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-3.92633424937
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9],1.86006657473
[H:3].[O:1]=[C:2]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.1501666489
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.51955832319
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],-6.43571327518
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],2.71495365412
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],3.02866478302
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.62746711858
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]1[O:10][O:11]1>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][O:11],-0.23386656299000005
[H:1][C:2]#[C:3].[O:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[H:9],-4.11368699872
[C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-5.01799089412
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],2.0174926062400003
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.11957559025
[H:1].[O:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.1740154798400004
[H:1][C:2]1[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]1[H:10]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[C:9](=[O:8])[H:10],1.32639792955
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4]\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],4.6937030234
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],1.03332082182
[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7],-5.606400741
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]#[C:10][H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.76014951901
[H:1]/[C:2]([C:3]=[C:4]=[O:5])=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1]/[C:2]([C:3]1[C:4][O:5]1)=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],2.50249271107
[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8],4.28954080517
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.79580646692
[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.85958521231
[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:10]([H:11])([H:12])[H:13].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[H:9],2.54310818699
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],7.13596457209
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7],3.73630671847
